US07119221B2
Under a N2 atmosphere, NaH (60% (w/w) in mineral oil, 3.20 g, 80.0 mmol) was added portion wise to a solution of TosMIC (6.58 g, 33.0 mmol) and BU4NI (1.31 g, 3.55 mmol) in dry DMSO (100 mL) while stirring vigorously and cooling with a water bath. After 30 min, butyl 1-(4-bromo-butyl)-cyclopentanecarboxylate (21.59 g, 67.2 mmol) was added drop wise to the mixture in 20 min and after 1 h of stirring, another portion of NaH (60% (w/w) in mineral oil, 0.56 g, 14 mmol) was added. After 20 min, H2O (250 mL, ice-cold) was added drop wise while cooling with a water bath and the resulting mixture was extracted with Et2O (3×100 mL). The combined organic layers were washed with brine (2×100 mL), dried (Na2SO4) and filtered through a layer of silica. The residue was washed with Et2O (200 mL) and the combined filtrate and washings were evaporated in vacuo. The remaining oil was purified by column chromatography (silica, heptane/EtOAc=8:1) to give butyl 1-{9-[1-(butoxycarbonyl)cyclopentyl]-5-isocyano-5-[(4-methylphenyl)sulfonyl]nonyl}-1-cyclopentanecarboxylate as a yellow oil (13.38 g). This oil (13.38 g) was dissolved in CH2Cl2 (250 mL), and conc aqueous HCl (75 mL) was added. After stirring vigorously for 18 h, H2O (300 mL) was added and the layers were separated. The aqueous phase was extracted with CH2Cl2 (2×100 mL) and the combined organic layers were washed with saturated aqueous NaHCO3 (2×250 mL) and brine (250 mL), dried (Na2SO4) and evaporated in vacuo. The remaining residue was suspended in heptane (100 mL) and filtered. The filtrate was evaporated in vacuo. The remaining residue was purified by column chromatography (silica, heptane/EtOAc=6:1) to give butyl 1-9-[1-(butoxycarbonyl)cyclopentyl]-5-oxononyl-1-cyclopentanecarboxylate (9.05 g, 56%) as a slightly yellow liquid. 1H NMR (CDCl3): δ=4.05 (t, J=6.5 Hz, 4H), 2.36 (t, J=7.5 Hz 4H), 2.14–2.05 (m, 4H), 1.65–1.32 (m, 28H), 1.24–1.16 (m, 4H), 0.96 (t, J=7.2 Hz, 6H). 13C NMR (CDCl3): δ=210.8, 177.8 (2×), 64.1 (2×), 54.0 (2×), 42.6 (2×), 39.0 (2×), 36.0 (4×), 30.7 (2×), 25.6 (2×), 24.9 (4×), 24.1 (2×), 19.1 (2×), 13.6 (2×). HRMS calcd for C29H50O5 (M+): 478.3658, found 478.3663.

reactant | NaH | 80.0 mmol, 3.20 g | [H-].[Na+]
reactant | TosMIC | 33.0 mmol, 6.58 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | butyl 1-(4-bromo-butyl)-cyclopentanecarboxylate | 67.2 mmol, 21.59 g | BrCCCCC1(CCCC1)C(=O)OCCCC | C14H25BrO2
reactant | NaH | 14 mmol, 0.56 g | [H-].[Na+]
reactant | H2O | 250 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | butyl 1-{9-[1-(butoxycarbonyl)cyclopentyl]-5-isocyano-5-[(4-methylphenyl)sulfonyl]nonyl}-1-cyclopentanecarboxylate | 13.38 g | C(CCC)OC(=O)C1(CCCC1)CCCCC(CCCCC1(CCCC1)C(=O)OCCCC)(S(=O)(=O)C1=CC=C(C=C1)C)[N+]#[C-] | C37H57NO6S
